US08957074B2
A mixture of benzyl-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (477 mg, 1.51 mmol, 1.0 eq) and palladium hydroxide on carbon (466 mg) in ethanol (10 mL) was stirred with hydrogenation under ballon pressure until no more hydrogen uptake. The reaction was then filtered through celite and concentrated under reduced pressure. The crude was purified using chromatography (MeOH/Ethyl Acetate) which gave 3,9-Diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester (170 mg) in 47% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.49 (s, 11H) 1.57-1.70 (m, 1H) 1.70-1.79 (m, 2H) 1.79-2.01 (m, 2H) 2.43-2.58 (m, J=19.14, 12.69, 6.32, 6.32 Hz, 1H) 2.93-3.05 (m, 2H) 3.05-3.18 (m, 2H) 3.99 (br. s., 1H) 4.11 (br. s., 1H)

reactant | benzyl-3,9-diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 1.51 mmol, 477 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1C2(CNCC1CCC2)CC2=CC=CC=C2 | C19H28N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 466 mg | [OH-].[OH-].[Pd+2]
product | 3,9-Diaza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | 170 mg, 47% yield | C(C)(C)(C)OC(=O)N1C2CNCC1CCC2 | C12H22N2O2
